US05434188
To a room temperature solution of 7-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxylic acid (200 mg, 0.77 mmol) in 5 mL of THF is added N,N-carbonyldiimidazole (162 mg, 1.00 mmol). The solution is heated at reflux for 1 hour and cooled slightly. Benzylamine (0.50 mn) is added and the reaction mixture is stirred at room temperature overnight. The mixture is diluted with ethyl acetate and washed with brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo. The crude product is chromatographed on silica gel eluting with hexane:ethyl acetate (2:1) to provide 7-methoxy-1-(1-methylethoxy)-N-(phenylmethyl)-2-naphthalene-carboxamide in 73% yield; mp 88°-90° C.

reactant | 7-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxylic acid | 0.77 mmol, 200 mg | COC1=CC=C2C=CC(=C(C2=C1)OC(C)C)C(=O)O | C15H16O4
reactant | N,N-carbonyldiimidazole | 1.00 mmol, 162 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-methoxy-1-(1-methylethoxy)-N-(phenylmethyl)-2-naphthalene-carboxamide | 73% yield | COC1=CC=C2C=CC(=C(C2=C1)OC(C)C)C(=O)NCC1=CC=CC=C1 | C22H23NO3
